US09353075B2
Step 5. Preparation of 5-phenylpentyl-N-methyl-N-[(2S,3R)-2-methyl-4-oxo-oxetan-3-yl]-carbamate
To a stirred mixture of (2R,3S)-3-hydroxy-2-[methyl-(5-phenylpentoxycarbonyl)-amino]-butanoic acid (0.04 g, 0.14 mmol) in dry CH2Cl2(5.0 mL), under nitrogen atmosphere at 0° C., Et3N (0.06 mL, 0.41 mmol) and subsequently TBTU (0.05 g, 0.17 mmol) were added. The mixture was left stirring at 0° C. for 1 h and at rt for 15 h. Upon full conversion of the starting material, the organics were removed under reduced pressure, and the resulting crude product absorbed over silica gel and purified by column chromatography, eluting with Cy:EtOAc (from 100:0 to 0:100) to afford the title compound (0.01 g, 23%), as a mixture of two rotamers (1:1.5 ratio), as a colorless oil. [α]25D −16.66 (c 0.1, CHCl3). 1H NMR (DMSO-d6) δ 1.29-1.41 (m, 10H), 1.53-1.69 (m, 8H), 2.58 (t, J=7.6 Hz, 4H), 2.93 (s, 6H), 3.98-4.11 (m, 4H), 4.77-4.89 (m, 2H), 5.24-5.33 (m, 1H, major rotamer), 5.35-5.43 (m, 1H, minor rotamer), 7.13-7.32 (m, 10H).

reactant | (2R,3S)-3-hydroxy-2-[methyl-(5-phenylpentoxycarbonyl)-amino]-butanoic acid | 0.14 mmol, 0.04 g | O[C@H]([C@H](C(=O)O)N(C(=O)OCCCCCC1=CC=CC=C1)C)C | C17H25NO5
reactant | Et3N | 0.41 mmol, 0.06 mL | CCN(CC)CC | C6H15N
reactant | TBTU | 0.17 mmol, 0.05 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 5-phenylpentyl-N-methyl-N-[(2S,3R)-2-methyl-4-oxo-oxetan-3-yl]-carbamate | 0.01 g, 23% | C1(=CC=CC=C1)CCCCCOC(N([C@@H]1[C@@H](OC1=O)C)C)=O | C17H23NO4
